US05292760
2-Amino-N-methyl-α-(3-methyl-2-thienyl)-5-trifluoromethylbenzeneethanamine dihydrochloride
A solution of 8.29 g of 2,2-dimethyl-N-[2-[2-methylamino-2-(3-methyl-2-thienyl)ethyl]-4-trifluoromethylphenyl]propanamide and 250 ml of 6N hydrochloric acid was refluxed for 10 hr, with stirring. The cooled solution was decanted over crushed ice and water, basified with 50% sodium hydroxide solution, and extracted with dichloromethane. The combined organic phase was washed with saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was separated by preparative HPLC (Waters Associates Prep LC/System 500, silica gel, sample applied in and eluted with methanol, 200 ml/min flow rate). The appropriate fractions were combined and evaporated. The residue was dissolved in ether and allowed to stand for 1 hr. The solution was filtered and the filtrate concentrated. The residue crystallized during refrigerated storage. A solution of the residue and ~5 ml methanol was treated with excess ethereal hydrogen chloride, and the solution was gradually diluted with ether. The precipitate was collected, washed with ether, and dried in vacuo at 40° C. over sodium hydroxide pellets to give 0.29 g of product, mp 209°-212° C. (dec.).

reactant | 2,2-dimethyl-N-[2-[2-methylamino-2-(3-methyl-2-thienyl)ethyl]-4-trifluoromethylphenyl]propanamide | 8.29 g | CC(C(=O)NC1=C(C=C(C=C1)C(F)(F)F)CC(C=1SC=CC1C)NC)(C)C | C20H25F3N2OS
reactant | hydrochloric acid | 6N, 250 ml | Cl | ClH
product | 2-Amino-N-methyl-α-(3-methyl-2-thienyl)-5-trifluoromethylbenzeneethanamine dihydrochloride | 0.29 g | Cl.Cl.NC1=C(C=C(C=C1)C(F)(F)F)CC(NC)C=1SC=CC1C | InChI=1S/C15H17F3N2S.2ClH/c1-9-5-6-21-14(9)13(20-2)8-10-7-11(15(16,17)18)3-4-12(10)19;;/h3-7,13,20H,8,19H2,1-2H3;2*1H
